US04277395
1-t-butyl 6-methyl 2-benzylideneamino-2-benzyl-4-benzyloxycarbonyl-4-difluoromethyl-5-methyl-3-oxohexanedioate is prepared in a similar manner except that t-butyl 3-phenyl-2-benzylideneaminopropionate is used in place of t-butyl 2-benzylideneaminopropionate and methyl 2-benzyl-3-benzyloxycarbonyl-3-chloroformyl-4,4-difluorobutanoate and methyl 3-benzyloxycarbonyl-3-chloroformyl-4,4-difluoro-2-methyl butanoate are used respectively in place of methyl 3-chloroformyl-4,4-difluoro-2-methylbutanoate.

reactant | t-butyl 3-phenyl-2-benzylideneaminopropionate | C1(=CC=CC=C1)CC(C(=O)OC(C)(C)C)N=CC1=CC=CC=C1 | C20H23NO2
reactant | methyl 2-benzyl-3-benzyloxycarbonyl-3-chloroformyl-4,4-difluorobutanoate | C(C1=CC=CC=C1)C(C(=O)OC)C(C(F)F)(C(=O)Cl)C(=O)OCC1=CC=CC=C1 | C21H19ClF2O5
reactant | methyl 3-chloroformyl-4,4-difluoro-2-methylbutanoate | ClC(=O)C(C(C(=O)OC)C)C(F)F | C7H9ClF2O3
product | 1-t-butyl 6-methyl 2-benzylideneamino-2-benzyl-4-benzyloxycarbonyl-4-difluoromethyl-5-methyl-3-oxohexanedioate | C(C1=CC=CC=C1)=NC(C(=O)OC(C)(C)C)(C(C(C(C(=O)OC)C)(C(F)F)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C35H37F2NO7
